US08039495B2
3-(2′,4′-Difluoro-biphenyl-4-yloxymethyl)-benzoic acid (4.0 g, 11.76 mmol) in 125 mL toluene was treated with thionyl chloride (8.28 mL, 117.6 mmol) and DMF (200 uL) was heated to 80-90° C. for 3 hrs. The reaction mixture was cooled, evaporated and re-evaporated from toluene 4 times to give a yellow oil that crystallized by pumping under high vacuum. This acid chloride was dissolved in 160 mL acetonitrile to which was added a solution of L-proline (2.62 g, 22.8 mmol) in 33 mL H2O and 1N Na2CO3 (22.8 mL, 22.8 mmol). The reaction mixture was stirred at RT for 45 min, diluted with 300 mL H2O and 450 mL ethyl acetate. The mixture was acidified to pH 2 with 1N HCl. The ethyl acetate layer was separated, washed with H2O, dried over MgSO4 and concentrated in vacuo. The crude product was purified by flash chromatography with a 0-90% gradient of ethyl acetate/MeOH/AcOH (95:5:1) in hexanes to yield 4.67 g (90.8%) of (S)-1-[3-(2′,4′-difluoro-biphenyl-4-yloxymethyl)-benzoyl]-pyrrolidine-2-carboxylic acid as a white solid. LC-MS (ES) calculated for C25H21F2NO4, 437.45; found m/z 438.1 [M+H]+.

reactant | 3-(2′,4′-Difluoro-biphenyl-4-yloxymethyl)-benzoic acid | 11.76 mmol, 4.0 g | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)OCC=1C=C(C(=O)O)C=CC1 | C20H14F2O3
reactant | thionyl chloride | 117.6 mmol, 8.28 mL | S(=O)(Cl)Cl | Cl2OS
reactant | L-proline | 22.8 mmol, 2.62 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | Na2CO3 | 22.8 mmol, 1N, 22.8 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | toluene | 125 mL | C1(=CC=CC=C1)C | C7H8
solvent | H2O | 33 mL | O | H2O
solvent | H2O | 300 mL | O | H2O
solvent | ethyl acetate | 450 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 200 uL | CN(C)C=O | C3H7NO
product | (S)-1-[3-(2′,4′-difluoro-biphenyl-4-yloxymethyl)-benzoyl]-pyrrolidine-2-carboxylic acid | 4.67 g, 90.8% | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)OCC=1C=C(C(=O)N2[C@@H](CCC2)C(=O)O)C=CC1 | C25H21F2NO4
